US05194671
Under the same conditions as in Example 1, 116 g (1.0 mol) of methyl acetoacetate in a mixture of 520 ml of methylene chloride and 30 ml of methyl ethyl ketone were reacted with 77.8 g (1.05 mol) of calcium hydroxide and 176.7 g (1.1 mol) of cyclohexylacetyl chloride. The subsequent reaction time after the ammonia had been metered in was 6 hours at a pH of 9.5. This gave 196 g (GC purity 75.0%) of methyl 4-cyclohexylacetoacetate (yield 74.5%).

reactant | methyl acetoacetate | 1.0 mol, 116 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | calcium hydroxide | 1.05 mol, 77.8 g | [OH-].[Ca+2].[OH-]
reactant | cyclohexylacetyl chloride | 1.1 mol, 176.7 g | C1(CCCCC1)CC(=O)Cl | C8H13ClO
reactant | ammonia | N | H3N
solvent | methylene chloride | 520 ml | C(Cl)Cl | CH2Cl2
solvent | methyl ethyl ketone | 30 ml | C(C)C(=O)C | C4H8O
product | methyl 4-cyclohexylacetoacetate | 196 g, yield 74.5% | C1(CCCCC1)CC(CC(=O)OC)=O | C11H18O3
